US06544985B2
7-(Isopropyl-methyl-amino)-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-(isopropyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M107) (0.37 g, 0.64 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (74 mg, 25%).

reactant | (5-(isopropyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.64 mmol, 0.37 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C29H33F3N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(Isopropyl-methyl-amino)-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)(C)N(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)C)=O)C=C1C(F)(F)F)C | C24H23F3N4O2
